US08227458B2
trans-4-(5-Chloro-pyridin-3-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(5-chloro-pyridin-3-yloxy)-cyclohexanecarboxylic acid methyl ester (0.19 g, 0.70 mmol) and hydrazine hydrate (0.14 ml, 2.8 mmol) in n-butanol (0.5 ml) was heated at 120° C. for 18 h. After cooling to room temperature the reaction mixture was triturated in toluene (100 ml). The product was collected by filtration and dried in vacuo to give the crude title compound (0.15 g, 79%) as white solid, which was used in the next step without further purification. MS m/e: 270 (M+H+)

reactant | trans-4-(5-chloro-pyridin-3-yloxy)-cyclohexanecarboxylic acid methyl ester | 0.70 mmol, 0.19 g | COC(=O)[C@@H]1CC[C@H](CC1)OC=1C=NC=C(C1)Cl | C13H16ClNO3
reactant | hydrazine hydrate | 2.8 mmol, 0.14 ml | O.NN
solvent | n-butanol | 0.5 ml | C(CCC)O | C4H10O
product | trans-4-(5-Chloro-pyridin-3-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.15 g, 79% | ClC=1C=C(C=NC1)O[C@@H]1CC[C@H](CC1)C(=O)NN | C12H16ClN3O2
